US08022068B2
f) N-Methoxy-2-[(2R,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-N-methyl-acetamide
According to general procedure D, 1.0 mmol of [(2R,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetic acid are reacted with N,O-dimethylhydroxylamine hydrochloride to afford the title compound which is identified based on its Rf-value.

reactant | [(2R,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetic acid | 1.0 mmol | COC[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)O)C | C39H52N2O9S
reactant | N,O-dimethylhydroxylamine hydrochloride | Cl.CNOC
product | N-Methoxy-2-[(2R,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-N-methyl-acetamide | CON(C(C[C@@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)COC[C@H](COC)C)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)=O)C | C41H57N3O9S
